US04806555
1-(2-Methoxyphenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol
This compound was prepared according to the procedure of Example 78. A mixture of 3.2 g (0.02 mole) of 1-phenylpiperazine, 4.8 g (0.02 mole) of 4-chloro-1-(2-methoxyphenoxy)-2-butanol and 8.0 g (0.075 mole) of anhydrous sodium carbonate in 100 ml of 1-butanol gave 4.5 g (64%) of white powder, m.p. 101°-102° C. Recrystallizing solvent used was iropropyl alcohol.

reactant | 1-phenylpiperazine | 0.02 mole, 3.2 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-chloro-1-(2-methoxyphenoxy)-2-butanol | 0.02 mole, 4.8 g | ClCCC(COC1=C(C=CC=C1)OC)O | C11H15ClO3
reactant | sodium carbonate | 0.075 mole, 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(2-Methoxyphenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol | 4.5 g, 64% | COC1=C(OCC(CCN2CCN(CC2)C2=CC=CC=C2)O)C=CC=C1 | C21H28N2O3
